US06384041B1
A solution of 173 mg (0.394 mmol) of [[2-(methylthio)-6-ethyl-7-[[3-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester in 5 mL of ethyl acetate and 1 mL of methanol was heated to reflux and treated with 1.05 g of Raney Ni in portions over 3 hours. The reaction was diluted with 2 mL of methylene chloride and the solids were removed by filtration through a filter aid. The reaction mixture was dried with sodium sulfate and concentrated to provide 128 mg (83%) of [[6-ethyl-7-[[3-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester as a solid. nmr (500 MHz, CDCl3) δ1.29 (t, J=7.4 Hz, 3H), 2.63 (q, J=7.4 Hz, 2H), 3.80 (s, 3H), 5.10 (s, 2H), 5.51 (s, 2H), 6.43 (s, 1H), 7.14 (d, J=7.7 Hz, 1H), 7.38 (m, 1H), 7.44 (s, 1H), 7.51 (d, J=7.7 Hz, 1H), 8.38 (s, 1H)

reactant | [[2-(methylthio)-6-ethyl-7-[[3-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.394 mmol, 173 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2)CC)CC2=CC(=CC=C2)C(F)(F)F)=O | C20H20F3N3O3S
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Ni | [Ni] | Ni
product | [[6-ethyl-7-[[3-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 128 mg, 83% | COC(COC=1C2=C(N=CN1)N(C(=C2)CC)CC2=CC(=CC=C2)C(F)(F)F)=O | C19H18F3N3O3
